US07141596B2
Step 1. Benzyl (1S)-2-[(2-aminophenyl)amino]-1-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-2-oxoethylcarbamate
(2S)-2-[(Benzyloxy)-carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid (65.3 mg, 0.128 mmol) in DMF (4 mL) was treated with benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (67.8 mg, 0.153 mmol). After 5 minutes 1,2-benzenediamine (20.7 mg, 0.192 mmol) and N,N-diisopropylethylamine (111 μL, 0.638 mmol) were added and the solution stirred at rt for 2 h. Purification by preparative LCMS afforded product as a white solid (58 mg, 76%). 1H NMR (400 MHz, CD3OD): δ 7.72 (s, 1H), 7.56–7.23 (m, 10H), 6.91–6.85 (m, 1H), 5.67 (t, J=7.7 Hz, 1H), 5.09 (s, 2H), 4.50–4.47 (m, 1H), 3.46 (dd, J=16.5, 8.8 Hz, 1H), 3.34–3.24 (m, 1H), 3.26–3.08 (m, 2H); LCMS found for C26H26BrN4O6S (M+H)+: m/z=601.

reactant | (2S)-2-[(Benzyloxy)-carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid | 0.128 mmol, 65.3 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br | C20H19BrN2O7S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.153 mmol, 67.8 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1,2-benzenediamine | 0.192 mmol, 20.7 mg | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | N,N-diisopropylethylamine | 0.638 mmol, 111 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Benzyl (1S)-2-[(2-aminophenyl)amino]-1-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-2-oxoethylcarbamate | 58 mg, 76% | NC1=C(C=CC=C1)NC([C@H](CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br)NC(OCC1=CC=CC=C1)=O)=O | C26H25BrN4O6S
